US07910751B2
<Step 1> Synthesis of 3-(3-(trifluoromethyl)phenylamino)propionic acid
Water (150 mL) and acrylic acid (48 g) were added to 3-aminobenzotrifluoride (75 g). The reaction mixture was stirred at 100° C. for one hour. The solution was cooled to room temperature. The pH of the solution was then adjusted to 10 with a 1 N aqueous sodium hydroxide solution. The solution was washed with diethyl ether, and the pH of the solution was then adjusted to 3 with 1 N hydrochloric acid. The solution was extracted with diethyl ether. The organic layer was washed with a saturated brine and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluate; n-hexane:ethyl acetate=2:1). The title compound (82 g) was obtained as a white solid.

reactant | acrylic acid | 48 g | C(C=C)(=O)O | C3H4O2
reactant | 3-aminobenzotrifluoride | 75 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | Water | 150 mL | O | H2O
product | 3-(3-(trifluoromethyl)phenylamino)propionic acid | 82 g | FC(C=1C=C(C=CC1)NCCC(=O)O)(F)F | C10H10F3NO2
